US04272536
Preparation of N-(1-tricyclo[4.3.1.12,5 ]undecyl)-2-aminoacetamide hydrochloride
A mixture of 1.39 g (3.94 millimoles) of N-(1-tricyclo[4.3.1.12,5 ]undecyl)-2-phthalimidoacetamide, 0.30 g (4.37 millimoles) of 80% hydrazine hydrate and 10 ml of ethanol was refluxed under agitation for 4 hours. The reaction temperature was lowered to 60° C., and 5 ml of 10% hydrochloric acid was added and the mixture was agitated for 2 hours. After cooling, the precipitate was recovered by filtration, and the pH of the filtrate was adjusted to 9 with a 5% aqueous solution of sodium hydroxide and the mixture was extracted with diethyl ether. The diethyl ether solution was condensed, and the residue was dissolved in 20 ml of dry benzene and dry hydrogen chloride gas was blown into the solution. The formed white precipitate was recovered by filtration and recrystallized from ethanolacetone to obtain 0.59 g (the yield being 58%) of the intended compound having a melting point of 225° to 229° C.

reactant | N-(1-tricyclo[4.3.1.12,5 ]undecyl)-2-phthalimidoacetamide | 3.94 millimoles, 1.39 g | C12(C3CCC(C(CCC1)C2)C3)NC(CN3C(C=2C(C3=O)=CC=CC2)=O)=O | C21H24N2O3
reactant | hydrazine hydrate | 4.37 millimoles, 0.30 g | O.NN
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | N-(1-tricyclo[4.3.1.12,5 ]undecyl)-2-aminoacetamide hydrochloride | Cl.C12(C3CCC(C(CCC1)C2)C3)NC(CN)=O | InChI=1S/C13H22N2O.ClH/c14-8-12(16)15-13-5-1-2-10(7-13)9-3-4-11(13)6-9;/h9-11H,1-8,14H2,(H,15,16);1H
